US05922727
35-b) 1-[2-(Cyclopent-1-en-1-yl)ethyl]-5-ethyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione
A mixture of sodium bicarbonate (0.10 g, 1.2 mmol) and lithium iodide (13 mg, 0.1 mmol) were added to dimethylformamide solution (10 ml) of 5-ethyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione (0.27 g, 1.0 mmol) and 2-(cyclopent-1-en-1-yl)ethyl toluenesulfonate (0.27 g, 1.0 mmol). And then, the reaction mixture was stirred at 90° C. for overnight, concentrated for removement of dimethylformamide, extracted with dichloromethane, dried, filtered and separated by column chromatography to give a desirable product as a white solid (148 mg).

reactant | sodium bicarbonate | 1.2 mmol, 0.10 g | C([O-])(O)=O.[Na+]
reactant | lithium iodide | 0.1 mmol, 13 mg | [I-].[Li+]
reactant | 5-ethyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | 1.0 mmol, 0.27 g | C(C)C=1C(NC(NC1C(C1=CC(=CC(=C1)C)C)=O)=O)=O | C15H16N2O3
reactant | 2-(cyclopent-1-en-1-yl)ethyl toluenesulfonate | 1.0 mmol, 0.27 g | C=1(C(=CC=CC1)S(=O)(=O)OCCC1=CCCC1)C | C14H18O3S
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-[2-(Cyclopent-1-en-1-yl)ethyl]-5-ethyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | 148 mg, Yield(%): 40.4 | C1(=CCCC1)CCN1C(NC(C(=C1C(C1=CC(=CC(=C1)C)C)=O)CC)=O)=O | C22H26N2O3
